US07618990B2
Step 2: 4-[2-(4,4-Dimethyl-2-thioxo-1,3-oxazolidin-3-yl)-1,3-thiazol-4-yl]benzonitrile
1,1-Thiocarbonyldiimidazole (652 mg, 3.6 mmol) was added to a solution of 4-{2-[(2-hydroxy-1,1-dimethylethyl)amino]-1,3-thiazol-4-yl}benzonitrile (1.0 g, 3.6 mmol), prepared in the previous step, in 60 mL of dry tetrahydrofuran at 0° C. The solution was allowed to warm to room temperature. After 2 h, starting material remained. The reaction was heated to reflux. After 12 h, the reaction was cooled to room temperature and concentrated under reduced pressure. Purification of the residue by reverse phase HPLC using a continuous gradient of 70-83% acetonitrile-water over 10 min gave the title compound (130 mg, 11%) as a tan solid. mp>240° C. (dec.)

reactant | 1,1-Thiocarbonyldiimidazole | 3.6 mmol, 652 mg | C1=CN(C=N1)C(=S)N2C=CN=C2 | C7H6N4S
reactant | 4-{2-[(2-hydroxy-1,1-dimethylethyl)amino]-1,3-thiazol-4-yl}benzonitrile | 3.6 mmol, 1.0 g | OCC(C)(C)NC=1SC=C(N1)C1=CC=C(C#N)C=C1 | C14H15N3OS
solvent | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
product | 4-[2-(4,4-Dimethyl-2-thioxo-1,3-oxazolidin-3-yl)-1,3-thiazol-4-yl]benzonitrile | 130 mg, 11% | CC1(N(C(OC1)=S)C=1SC=C(N1)C1=CC=C(C#N)C=C1)C | C15H13N3OS2
